US08222245B2
4-[(1-Methylethyl)oxy]-3-(trifluoromethyl)benzoic acid
To a mixture of 1-methylethyl 4-[(1-methylethyl)oxy]-3-(trifluoromethyl)benzoate (Preparation 38) (3.63 g, 12.5 mmol) in ethanol (100 ml) was added aqueous sodium hydroxide (12.5 M, 10.0 ml, 125 mmol) and the reaction heated to reflux for 3 hrs. The mixture was concentrated in vacuo and the residue partitioned between EtOAc (100 ml) and water (100 ml) and acidified with aqueous hydrochloric acid. The aqueous layer was extracted further with EtOAc (100 ml) and the combined organic layers dried and concentrated in vacuo to give the title compound as a yellow solid (2.68 g, 10.8 mmol). MS (ES−): C11H11F3O3 requires 248; found 247 [M−H+].

reactant | 1-methylethyl 4-[(1-methylethyl)oxy]-3-(trifluoromethyl)benzoate | 12.5 mmol, 3.63 g | CC(C)OC1=C(C=C(C(=O)OC(C)C)C=C1)C(F)(F)F | C14H17F3O3
reactant | sodium hydroxide | 125 mmol, 12.5 M, 10.0 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[(1-Methylethyl)oxy]-3-(trifluoromethyl)benzoic acid | 10.8 mmol, 2.68 g | CC(C)OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C11H11F3O3
